* Passive RC spectrum split
VLOW mid 0 SINE(0 1 250)
VHIGH in mid SINE(0 0.6 4k)
RLP in low 3.3k
CLP low 0 47n
CHP in high 47n
RHP high 0 3.3k
.options plotwinsize=0
.tran 0 20m 0 5u
.meas TRAN vin_rms RMS V(in) FROM=4m TO=20m
.meas TRAN low_rms RMS V(low) FROM=4m TO=20m
.meas TRAN high_rms RMS V(high) FROM=4m TO=20m
.end
